US06320050B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester (395 mg, 1.04 mmol) and 2-aminothiazole (209 mg, 1.38 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 2.09 mL, 1.38 mmol) was heated at 110° C. for 24 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded the 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide (256.7 mg, 55.1%) as a white solid: mp 95-100° C.; EI-HRMS m/e calcd for C19H21F3N2O3S2 (M+)446.0946, found 446.0944.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester | 1.04 mmol, 395 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C17H21F3O4S
reactant | 2-aminothiazole | 1.38 mmol, 209 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 1.38 mmol, 2.09 mL | CO | CH4O
product | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide | 256.7 mg, 55.1% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C19H21F3N2O3S2
